### PR TITLE
feat: GenHeap and HeapLang example

### LINKED ISSUE #283: Port base_logic/lib/gen_heap.v
## Summary

Port [`base_logic/lib/gen_heap.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/base_logic/lib/gen_heap.v).

## Dependencies

**Rocq dependencies:**

- `proofmode/proofmode` (aggregation)
- #226
- #252
- #240
- #258
- #271
- #265
- #223

### PR DESCRIPTION
**Pull request by ayhon**
## Description
A `GenHeap` implementation as a thin wrapper around `GhostMap`. Since `reservation_map` is not defined yet, we chose a prior version's [`gen_heap.v` file](https://gitlab.mpi-sws.org/iris/iris/-/blob/61840d318d6e147f3d8b8bb635b7235ee6d9c501/theories/base_logic/lib/gen_heap.v) to port.

Depends on #407, fixes #283.

## Checklist
* [ ] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [ ] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

**Comment by Kaptch** [comment]
This PR implements the old version of `gen_heap` and uses it to provide program logic rules for HeapLang. On top of the program logic, a simple spin lock is shown to satisfy the lock specification.

There are four tracking issues to get it up-to date: 
- #283 to port the full version of `gen_heap`;
- #431 to port `wp_*` tactics;
- #284 to add support for prophecy variables;
- #432 to port the full program logic for HeapLang (helper instances for program logic and the rest of the proof rules).

**Comment by lzy0505** [comment]
Thanks for the great PR. I will review it later today.

File: Iris/Iris/ProgramLogic/Language.lean [hunk 1]
```diff
@@ -396,7 +396,7 @@ scoped notation (name := PureSteps) conf:40 " -ᵖ->ₜₚ* " conf':41 => Langua
 end Notation
 
 @[rocq_alias PureExec]
-class PureExec (φ : Prop) (n : Nat) (e₁ e₂ : Expr) : Prop where
+class PureExec (φ : Prop) (n : semiOutParam <| Nat) (e₁ : Expr) (e₂ : outParam <| Expr) : Prop where
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean]: Asking for my own learning: why is `n` a `semiOutParam` instead of an `outParam`?

**Comment by markusdemedeiros** [comment]
Interestingly, some of the hypotheses of `wp_store` were unused and could be deleted. Is it that way in Rocq iris too?

**Comment by Kaptch** [comment]
> Interestingly, some of the hypotheses of `wp_store` were unused and could be deleted. Is it that way in Rocq iris too?

Oh, I think I initially did it for e : Exp with an obligation that it can be coerced to a value, but eventually moved to just values, while leaving e : Exp by accident.

File: Iris/Iris/ProgramLogic/Language.lean (hunk 1 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/Language.lean]: My question is, why not an outParam? For `wp_pure`, the n should act as an output parameter, no?

File: Iris/Iris/HeapLang/Instances.lean [hunk 2]
```diff
@@ -37,23 +38,200 @@ instance : EctxItemLanguage Exp ECtxItem State Observation Val where
...
+        apply EctxItemLanguage.subredexes_are_values
+        intro Ki e_inner heq
+        cases Ki <;> try (cases heq; done)
+        · cases heq; simp [toVal, expToVal]
+        · cases heq; simp
+      cases (EctxLanguage.baseStep_of_primStep Hstep hsr)
+      rename_i H
+      refine ⟨rfl, rfl, H.symm, rfl⟩
+
+theorem PureExec_snd {v1 v2 : Val} : Language.PureExec True 1 hl(snd(v(({v1}, {v2})))) v2 where
```
Comment (markusdemedeiros) [inline Iris/Iris/HeapLang/Instances.lean]: Any reason why this is a theorem?

File: Iris/Iris/HeapLang/Instances.lean [hunk 3]
```diff
@@ -37,23 +38,200 @@ instance : EctxItemLanguage Exp ECtxItem State Observation Val where
...
     | resolveL K _ _ IH =>
       intro σ obs e' σ' eps h
-      simp only [ECtxItem.fill] at h
-      cases h with
-      | resolveS _ _ _ _ _ _ _ _ inner _ => exact IH inner
+      cases h with | resolveS _ _ _ _ _ _ _ _ inner _ => exact IH inner
     | _ =>
       intro σ obs e' σ' eps h
-      simp only [ECtxItem.fill] at h
       cases h <;> simp [expToVal, Option.isSome_some]
```
Comment (markusdemedeiros) [inline Iris/Iris/HeapLang/Instances.lean:55]: In general: plenty to golf in this file. Though I think it's also missing a few lemmas, if we want to merge it before the iris-workshop and come back to golf/complete later that's fine by me

File: Iris/Iris/HeapLang/PrimitiveLaws.lean [hunk 4]
```diff
@@ -0,0 +1,314 @@
...
+  iintro Hwp
+  iapply wp_pure_step_fupd (Hφ := True.intro) (n := 1) _ (by infer_instance)
+  dsimp only [Nat.repeat]
+  iintro !> !> !> -; iframe
+
+-- TODO use hl syntax everywhere possible
+
+theorem wp_rec {f x : Binder} {e : Exp} {v : Val} :
+    ▷ WP ((e.subst f (.rec_ f x e)).subst x v) @ s; E {{ Φ }}
+    ⊢  WP (Exp.app (.val (.rec_ f x e)) v) @ s; E {{ Φ }} := by
```
Comment (markusdemedeiros) [inline Iris/Iris/HeapLang/PrimitiveLaws.lean:99]: I think hl(...) syntax would make these more readable

File: Iris/Iris/HeapLang/PrimitiveLaws.lean [hunk 5]
```diff
@@ -0,0 +1,314 @@
...
+  iintro !> %e₂ %σ₂ %eₜ %Heq Hcr
+  rcases baseStep_of_primStep_of_baseStep_reducible Hred Heq
+  rename_i l' Hpo Hi
+  simp only [Int.cast_ofNat_Int, Algebra.BigOpL.bigOpL_nil, Int.toNat_one, List.range_one,
+    List.foldl_cons, Int.cast_ofNat_Int, List.foldl_nil]
+  specialize Hi 0 (by simp) (by simp)
+  rw [show l' + (0 : Int) = l' by cases l'; simp only [HAdd.hAdd, Loc.mk.injEq]; grind] at Hi ⊢
+  imod genHeap_alloc (v := some v) Hi $$ Hσ with ⟨Hσ, Hpt⟩
+  imodintro
+  -- FIXME: can iframe should solve emp?
```
Comment (markusdemedeiros) [inline Iris/Iris/HeapLang/PrimitiveLaws.lean:156]: Not urgent but I feel like iframe should solve automatically clear emps, at least in Iris

File: Iris/Iris/HeapLang/PrimitiveLaws.lean [hunk 6]
```diff
@@ -0,0 +1,314 @@
...
+    exact primStep_reducible_of_baseStep_reducible Hred
+  iintro !> %e₂ %σ₂ %eₜ %Heq Hcr
+  cases baseStep_of_primStep_of_baseStep_reducible Hred Heq
+  rename_i v'' H
+  rw [Hpt] at H; simp only [Option.pure_def, Option.bind_eq_bind, Option.bind_some,
+    Option.some.injEq] at H
+  subst H
+  simp only [Int.toNat_one, List.range_one, List.foldl_cons, Int.cast_ofNat_Int, List.foldl_nil,
+    Algebra.BigOpL.bigOpL_nil]
+  rw [show l + (0 : Int) = l by cases l; simp only [HAdd.hAdd, Loc.mk.injEq]; grind]
```
Comment (markusdemedeiros) [inline Iris/Iris/HeapLang/PrimitiveLaws.lean:222]: I think this show should be a simp lemma somewhere

File: Iris/Iris/HeapLang/PrimitiveLaws.lean [hunk 7]
```diff
@@ -0,0 +1,314 @@
...
+  simp only [Heq4, Bool.false_eq_true, ↓reduceIte]
+  imodintro
+  iframe Hσ
+  isplit <;> try itrivial
+  iexists hl_val(({v'}, #(BaseLit.bool false)))
+  iframe Hpt
+  ipureintro; simp [toVal]
+
+theorem wp_cmpXchg_true {l : Loc} {v' : Val} {e1 : Exp} {v1 : Val} {e2 : Exp} {v2 : Val}
+    (Heq1 : toVal e1 = .some v1) (Heq2 : toVal e2 = .some v2) (Heq3 : v'.compareSafe v1)
```
Comment (markusdemedeiros) [inline Iris/Iris/HeapLang/PrimitiveLaws.lean:271]: Rename Heq (above as well)

**Review by markusdemedeiros — APPROVED** [review]

**Comment by markusdemedeiros** [comment]
Left a couple comments, there's some more cleanup but if you want to merge this to have it in main before the iris workshop I think that's completely good too. So psyched that this came together, awesome work gang!

**Comment by markusdemedeiros** [comment]
> Oh, I think I initially did it for e : Exp with an obligation that it can be coerced to a value, but eventually moved to just values, while leaving e : Exp by accident.

I'm just happy to be vindicated in moving all left-hand sides of arrows to named hypotheses 😆

File: Iris/Iris/HeapLang/PrimitiveLaws.lean (hunk 5 above)
Comment (MackieLoeffel) [reply Iris/Iris/HeapLang/PrimitiveLaws.lean:156]: I don't think `iFrame` in Rocq solves `emp`. We can discuss this, but I think this should be a separate discussion from this PR (maybe also together with the discussion of `iframe` automatically solving some pure facts). Can you create an issue for this?

File: Iris/Iris/HeapLang/PrimitiveLaws.lean (hunk 4 above)
Comment (Kaptch) [reply Iris/Iris/HeapLang/PrimitiveLaws.lean:99]: I think here it's to make the statement a bit more general. hl_val(rec f x := e) would create named binders "f" and "x" instead of using the ones from the context. Probably we need quotation mechanism for binders.

**Review by lzy0505 — APPROVED** [review]
It looks good. I also think we should merge the PR for now and come back to golf the proofs after Iris workshop. Added this to #432.

**Comment by lzy0505** [comment]
Merging... Thanks everyone for the awesome work!

**Comment by MackieLoeffel** [comment]
Indeed, this is great! Thank you everyone!

File: Iris/Iris/HeapLang/PrimitiveLaws.lean (hunk 5 above)
Comment (markusdemedeiros) [reply Iris/Iris/HeapLang/PrimitiveLaws.lean:156]: Sure!

File: Iris/Iris/HeapLang/PrimitiveLaws.lean (hunk 4 above)
Comment (markusdemedeiros) [reply Iris/Iris/HeapLang/PrimitiveLaws.lean:99]: Good point!
